US04243609
A mixture of 3.5 g of methyl 2-fluoro-4-hexadecylaminobenzoate, 40 ml of ethanol, 60 ml of water, and 3.8 g of potassium hydroxide is heated on a steam bath for 14 hours. The hot solution is acidified with concentrated hydrochloric acid. The reaction mixture is cooled and filtered. The colorless residue is recrystallized from chloroform-hexane to yield 2-fluoro-4-(hexadecylamino)benzoic acid as a white solid.

reactant | methyl 2-fluoro-4-hexadecylaminobenzoate | 3.5 g | FC1=C(C(=O)OC)C=CC(=C1)NCCCCCCCCCCCCCCCC | C24H40FNO2
reactant | ethanol | 40 ml | C(C)O | C2H6O
reactant | potassium hydroxide | 3.8 g | [OH-].[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | water | 60 ml | O | H2O
product | 2-fluoro-4-(hexadecylamino)benzoic acid | FC1=C(C(=O)O)C=CC(=C1)NCCCCCCCCCCCCCCCC | C23H38FNO2
